US07612054B2
f) (1S*,2S*,4R*)-1-(3-Benzyloxy-benzyl)-4-butylcarbamoyl-2-hydroxy-pentyl-ammonium chloride
[(1S*,2S*,4R*)-1-(3-Benzyloxy-benzyl)-4-butylcarbamoyl-2-hydroxy-pentyl]-carbamic acid tert-butyl ester (660 mg, 1.3 mmol) is dissolved in 4M HCl in dioxane (14 ml) and stirred at rt for 75 min. Evaporation of the solvent and washing the residue with diethyl ether gives a white foam (535 mg).

reactant | [(1S*,2S*,4R*)-1-(3-Benzyloxy-benzyl)-4-butylcarbamoyl-2-hydroxy-pentyl]-carbamic acid tert-butyl ester | 1.3 mmol, 660 mg | C(C)(C)(C)OC(N[C@H]([C@H](C[C@@H](C)C(NCCCC)=O)O)CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C29H42N2O5
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 14 ml | O1CCOCC1 | C4H8O2
product | (1S*,2S*,4R*)-1-(3-Benzyloxy-benzyl)-4-butylcarbamoyl-2-hydroxy-pentyl-ammonium chloride | 535 mg | [Cl-].C(C1=CC=CC=C1)OC=1C=C(C[C@@H]([C@H](C[C@@H](C)C(NCCCC)=O)O)[NH3+])C=CC1 | InChI=1S/C24H34N2O3.ClH/c1-3-4-13-26-24(28)18(2)14-23(27)22(25)16-20-11-8-12-21(15-20)29-17-19-9-6-5-7-10-19;/h5-12,15,18,22-23,27H,3-4,13-14,16-17,25H2,1-2H3,(H,26,28);1H/t18-,22+,23+;/m1./s1
